US04128562
205 g of O-n-butyl 2-ethoxycarbonylthioacetate were added at 30° C. to a solution of 70 g of potassium methylate in a liter of methanol and the mixture was stirred for 10 minutes at 30° C. 75.5 g of chloroacetonitrile were added all at once to the mixture which was stirred for an hour at 40° C. and then a solution of 70 g of potassium methylate in 300 ml of methanol. The mixture was stirred for 6 hours at room temperature and was evaporated to dryness. The residue was washed with ethyl acetate and ether and was dried. The residue was then dissolved in water and the aqueous solution was acidified with concentrated hydrochloric acid and was vacuum filtered. The recovered precipitate was washed with water, dried and chromatographed over silica gel. Elution with 6-4 cyclohexane-ethyl acetate yielded 81 g of 2-cyano-3-hydroxy-5-n-butoxy-thiophene melting at 107° C.

reactant | O-n-butyl 2-ethoxycarbonylthioacetate | 205 g | C(C)OC(=O)CC(=S)OCCCC | C9H16O3S
reactant | potassium methylate | 70 g | C[O-].[K+]
reactant | chloroacetonitrile | 75.5 g | ClCC#N | C2H2ClN
reactant | potassium methylate | 70 g | C[O-].[K+]
solvent | methanol | a liter | CO | CH4O
solvent | methanol | 300 ml | CO | CH4O
product | 2-cyano-3-hydroxy-5-n-butoxy-thiophene | 81 g | C(#N)C=1SC(=CC1O)OCCCC | C9H11NO2S
